US09216968B2
Methyl 6-amino-1H-benzimidazole-4-carboxylate
Methyl 6-nitro-1H-benzimidazole-4-carboxylate (304 mg) was suspended in MeOH (10 mL), the suspension was added with 5% palladium on carbon (30 mg), and stirred under hydrogen (1 atm) atmosphere. The catalyst was filtered off on celite and washed with MeOH, and the mother liquor was concentrated in vacuo to obtain the titled compound (269 mg) as pale yellow powder.

reactant | Methyl 6-nitro-1H-benzimidazole-4-carboxylate | 304 mg | [N+](=O)([O-])C=1C=C(C2=C(NC=N2)C1)C(=O)OC | C9H7N3O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | Methyl 6-amino-1H-benzimidazole-4-carboxylate | 269 mg | NC=1C=C(C2=C(NC=N2)C1)C(=O)OC | C9H9N3O2
